US09340528B2
Step C: Preparation of 4-[3-(morpholin-4-yl)quinoxalin-6-yl]benzene-1,2-diamine
Pd/C (120 mg, 1.13 mmol) and ammonium formate (857 mg, 13.6 mmol) were added to a suspension of N-benzyl-4-[3-(morpholin-4-yl)quinoxalin-6-yl]-2-nitroaniline (1.2 g, 2.7 mmol) in MeOH (120 mL) and water (0.12 mL). The reaction mixture was refluxed for 4 h, then filtered over Celite. After removal of solvent the residue was purified (silica gel, Hexane/EtOAc: 10%->100% EtOAc) giving rise to 480 mg (48%) of the desired product.

reactant | ammonium formate | 13.6 mmol, 857 mg | C(=O)[O-].[NH4+]
reactant | N-benzyl-4-[3-(morpholin-4-yl)quinoxalin-6-yl]-2-nitroaniline | 2.7 mmol, 1.2 g | C(C1=CC=CC=C1)NC1=C(C=C(C=C1)C=1C=C2N=C(C=NC2=CC1)N1CCOCC1)[N+](=O)[O-] | C25H23N5O3
solvent | MeOH | 120 mL | CO | CH4O
solvent | water | 0.12 mL | O | H2O
catalyst | Pd/C | 1.13 mmol, 120 mg | [Pd] | Pd
product | 4-[3-(morpholin-4-yl)quinoxalin-6-yl]benzene-1,2-diamine | 480 mg, 48% | N1(CCOCC1)C=1C=NC2=CC=C(C=C2N1)C=1C=C(C(=CC1)N)N | C18H19N5O
